US04904667
1H-1,2,4-Thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide.
To a stirred slurry of isatoic anhydride (3.10 g, 19 mmol) and S-methyl-N-(chloromethanesulfonyl)isothiourea (3.85 g, 19 mmol) in acetonitrile (30 ml) under nitrogen is added 4-(N,N-dimethylamino)pyridine (2.32 g, 19 mmol). The mixture is refluxed under nitrogen for 16 hr, concentrated, then worked up as in Example 4 above. Recrystallization from DMF provided the title compound as a white solid, mp >300° C. (1.32 g, 29%).

reactant | isatoic anhydride | 19 mmol, 3.10 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | S-methyl-N-(chloromethanesulfonyl)isothiourea | 19 mmol, 3.85 g | CSC(NS(=O)(=O)CCl)=N | C3H7ClN2O2S2
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | 4-(N,N-dimethylamino)pyridine | 19 mmol, 2.32 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 1H-1,2,4-Thiadiazolo[3,4-b]quinazolin-5-one-2,2-dioxide | N1S(CN2C1=NC1=CC=CC=C1C2=O)(=O)=O | C9H7N3O3S
